US04622221
1-CYCLOHEXYL-1-ETHYL FORMATE
A mixture of 12.8 g. (0.1 moles) 1-cyclohexyl-1-ethanol and 13.8 g. (0.3 moles) formic acid was refluxed for two hours and then cooled to room temperature. It was poured in 200 ml. cold water, the organic material extracted in ether and the ether extract washed thoroughly with water, sodium bicarbonate, water and brine and dried over molecular sieves. 15.4 g. crude product of 97.9% purity was recovered--major impurity is residual solvent. The crude product was distilled through a short Vigreux-column. The product is a mobile, colorless liquid, b.p. 94° C./16 mm., nD25 =1.4437. Yield 13.6 g.=87.1%, purity 99.2% (by GLC) of 1-cyclohexyl-1-ethyl formate.

reactant | 1-cyclohexyl-1-ethanol | 0.1 moles | C1(CCCCC1)C(C)O | C8H16O
reactant | formic acid | 0.3 moles | C(=O)O | CH2O2
product | 1-CYCLOHEXYL-1-ETHYL FORMATE | C(=O)OC(C)C1CCCCC1 | C9H16O2
